US04738957
1.0 g of 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one is reacted with caproic anhydride under the reaction conditions set forth in Example 2(a) and purified, yielding 750 mg of 3,16α-dihexanoyloxy-1,3,5(10)-estratrien-17-one.

reactant | 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one | 1.0 g | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C18H22O3
reactant | caproic anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
product | 3,16α-dihexanoyloxy-1,3,5(10)-estratrien-17-one | 750 mg | C(CCCCC)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)OC(CCCCC)=O | C30H42O5
